US04423029
Thionyl chloride (39.0 ml, 0.542 mole) was added dropwise with stirring to 150 ml of dry methanol at -10° C. Then, 17.85 g. (0.15 mole) of D(+) threonine was added, cooling was discontinued and the reaction mixture was kept at about 22° C. for sixteen hours. The mixture was evaporated in vacuo to remove the solvent plus excess thionyl chloride, leaving crude D(+) threonine methyl ester HCl in essentially quantitative yield. The ester was dissolved in 375 ml saturated aqueous sodium bicarbonate, and the solution was stirred vigorously at about 22° C. while benzyl chloroformate (25.0 ml, 0.18 mole) was added dropwise over 5 minutes. The product separated as an oil which spontaneously crystallized after about 16 hours. This product was extracted into ether and after drying over anhydrous magnesium sulfate and evaporation, 42.8 g of white solid was obtained. Recrystallization from ethyl acetate/hexane gave two crops of product: (a) 30.91 g, m.p. 89.5°-91.5° C. and (b) 3.43 g, m.p. 87°-89° C.; total yield was 71%. Analysis calculated for C13H17NO5 : C=58.42%; H=6.41%; N=5.24%. Found: C=58.50%; H=6.45%; N=5.21%.

reactant | Thionyl chloride | 0.542 mole, 39.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | threonine | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
reactant | methanol | 150 ml | CO | CH4O
product | threonine methyl ester HCl | quantitative yield | Cl.COC([C@@H](N)[C@H](O)C)=O | InChI=1S/C5H11NO3.ClH/c1-3(7)4(6)5(8)9-2;/h3-4,7H,6H2,1-2H3;1H/t3-,4+;/m1./s1
